*---------- DMG301NU Spice Model ----------
.SUBCKT NMOS_MOSFET 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.5296 
RS 30 3 0.08274 
RG 20 2 84 
CGS 2 3 2.421E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 6.2E-011 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 8E+005  ETA = 0.001  VTO = 0.9252 
+ TOX = 6E-008  NSUB = 1E+016  KP = 1.517  U0 = 400  KAPPA = 4.441E-010 
.MODEL DCGD D  CJO = 1.033E-011  VJ = 0.2003  M = 0.3 
.MODEL DSUB D  IS = 1.714E-009  N = 1.454  RS = 0.03011  BV = 35  CJO = 1.259E-011  VJ = 0.6  M = 0.3013 
.MODEL DLIM D  IS = 0.0001 
.ENDS

*Diodes DMG301NU Spice Model v1.0 Last Revised 2015/6/4