** AMUX behavioral spice model (74LVC1G3157)
** LTSpice model: tim 2020
** Netslist adoption: Joan Iluch


*****************
* Connections
*      1  = B2  (NO)
*      2  = GND
*      3  = B1  (NC)
*      4  = A
*      5  = VCC
*      6  = S
*****************

.SUBCKT 74LVC1G3157 1 2 3 4 5 6
X1 1 3 4 6 5 2 ANALOG_SPDT
.ENDS


*****************
* Connections
*      1  = NO
*      2  = NC
*      3  = CO (Common)
*      4  = SEL
*      5  = VCC
*      6  = GND
*****************

.subckt ANALOG_SPDT 1 2 3 4 5 6
R0 4 p0 1
C0 p0 6 2.3p
R1 2 p1 1
C1 p1 3 16p
R2 1 p2 1
C2 p2 3 16p
S1 p1 3 5 p0 switch
S2 p2 3 p0 6 switch
.model switch sw (vt=2.5 vh=0.2 ron=5 roff=1g)
.ends ANALOG_SPDT
