* Spice library implementing logic gates in discrete resistor-transistor-logic (RTL)
* 2021-Nov-01  cpldcpu

* General notes:
* The load resistor in all cells is at the input, the output is open collector.
* This helps to automatically adjust biasing, but means that an additonal pull-up
* resistor has to be added to any open output that does not have internal connections.

* Supported gate types:
* BUF
* NOT
* NOR2
* NOR3
* DLATCH
* DFF

* Special gates utilizing pass gate NPN
* XOR2
* DFF7T
* DLATCH3Tn

* Global nodes:
* VCC       positive supply
* VEE       negative supply

* Global constants
* RL        Load resistor value
* RB        Base resistor value

* Microcells defined elsewhere:
* NOT, NOTb, TBUFc, TBUFe

.SUBCKT BUF A Y
X1 A B NOT
X2 B Y NOT
.ENDS NOT

.SUBCKT NOR2 A B Y
X1 A Y NOT
X2 B Y NOT
.ENDS NOR2

.SUBCKT NOR3 A B C Y
X1 A Y NOT
X2 B Y NOT
X3 C Y NOT
.ENDS NOR2

.SUBCKT XOR2 A B Y
X1 A B N001 TBUFe
X1 B A N001 TBUFe
X2 N001 Y NOT
.ENDS NOR2

.SUBCKT DLATCH3Tn E D Qn
X1 E D N001 TBUFc
X2 N002 N001 Qn NOTb
X3 Qn N002 NOT
.ENDS DLATCH

.SUBCKT PHLATCH E D Q
X1 D nE N001 NOR2
X2 E Q nQ NOR2
X3 N001 nQ Q NOR2
X4 E nE NOT
.ENDS DLATCH

.SUBCKT DFF7T C D Q
X1 nC D t DLATCH3Tn
X2 C t Q DLATCH3Tn
X3 C nC NOT
.ENDS DFF

.SUBCKT DFF C D Q
X1 nC D t PHLATCH
X2 C t Q PHLATCH
X3 C nC NOT
.ENDS DFF
